US08349824B2
The product was prepared in the same manner as described in example 3 using 5-(2-(3-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (60 mg, 158 μmol) and 3-methoxyazetidine hydrochloride (58.5 mg, 473 μmol) as starting materials. The reaction affords 4-(3-methoxy-azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid [2-(3-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide (10 mg, 14.1%) as white solid. mp.: 255-257° C., MS: m/z=450.0 (M+H+).

reactant | 5-(2-(3-fluorophenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 158 μmol, 60 mg | FC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1 | C18H13FN6O3
reactant | 3-methoxyazetidine hydrochloride | 473 μmol, 58.5 mg | Cl.COC1CNC1
product | 4-(3-methoxy-azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid [2-(3-fluoro-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-7-yl]-amide | 10 mg, 14.1% | FC=1C=C(C=CC1)C1=NN2C(C=C(C=C2)NC(=O)C=2N(N=CC2C(=O)N2CC(C2)OC)C)=N1 | C22H20FN7O3
